US04325873
78.6 g of 3,3-dimethyl-4-(4'-methoxy-phenacyl)-γ-butyrolactone were dissolved in 500 ml of ethanol, and dry hydrogen chloride was passed in until the temperature had reached 50° C. A slow stream of hydrogen chloride was then passed through the solution at 50° C., initially while cooling, for 3 hours, and then continued to be passed in until the mixture reached room temperature again. Distilling off the ethanol in vacuo gave 98 g of 6-(4'-methoxy-phenyl)-6-oxo-4-chloro-3,3-dimethyl-hexanoic acid ethyl ester.

reactant | 3,3-dimethyl-4-(4'-methoxy-phenacyl)-γ-butyrolactone | 78.6 g | CC1(CC(=O)OC1CC(=O)C1=CC=C(C=C1)OC)C | C15H18O4
reactant | hydrogen chloride | Cl | ClH
reactant | ethanol | 500 ml | C(C)O | C2H6O
product | 6-(4'-methoxy-phenyl)-6-oxo-4-chloro-3,3-dimethyl-hexanoic acid ethyl ester | 98 g | C(C)OC(CC(C(CC(=O)C1=CC=C(C=C1)OC)Cl)(C)C)=O | C17H23ClO4
